US05034410
A mixture of 4-trifluoromethylaniline (6.7 g), trimethylorthoformate (6.6 g) and sulfuric acid (0.22 g) was heated at 90° C. and the methanol formed in the reaction was allowed to distill off. Additional trimethylorthoformate (4 mL) was added twice more. After each addition the reaction mixture was distilled. A final aliquot trimethylorthoformate (5 mL) was added and the reaction mixture was heated at 150° C. for four hours. The reaction mixture was cooled and partitioned between saturated aqueous sodium bicarbonate and ethyl acetate. The organic layer was removed, dried over sodium sulfate, and concentrated to a yellow oil. This oil was then suspended in 2N aqueous HCl (100 mL) and then heated at 80° C. for eight hours. The reaction mixture was then cooled, made basic to pH 11 with aqueous NaOH, and extracted with ether. The organic layer was dried over magnesium sulfate and concentrated to an oil. This oil was further purified by chromatography on silica gel (350 g, elute with hexane:ether (60/40)) to give 5.8 g of N-methyl-4-trifluoromethylaniline as a low-melting solid. Condensation of N-methyl-4-trifluoromethylaniline with cyanoacetic acid, as described in Preparation 1 yielded 6.0 g of α-cyano-N-methyl-4-trifluoromethylacetanilide; m.p. 68°-70° C.

reactant | 4-trifluoromethylaniline | 6.7 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | trimethylorthoformate | 6.6 g | COC(OC)OC | C4H10O3
catalyst | sulfuric acid | 0.22 g | S(O)(O)(=O)=O | H2O4S
solvent | methanol | CO | CH4O
product | N-methyl-4-trifluoromethylaniline | 5.8 g | CNC1=CC=C(C=C1)C(F)(F)F | C8H8F3N
